US06548042B2
Tetramethyl m-trimethylsilylphenyl-1-hydroxy-ethylidenebis(phosphonate)
To a solution of dimethyl m-trimethylsilylphenylacetylphosphonate (1.63 g, 5.0 mmol) in Et2O (10 cm3) was added a solution of dimethylphosphite (0.83 g, 7.5 mmol), dibutylamine (0.32 g, 2.5 mmol) and hexane (10 cm3) at 0° C. A white solid began to form after a few minutes. After 20 min the mixture was filtrated to give the title compound (1.34 g, 65%) as a white solid. Recrystallization was achieved by adding water (9.5 cm3) to a solution of the title compound (0.50 g) in acetic acid (0.5 cm3) and then leaving the resulting mixture for several days in the refrigerator. Filtration afforded the bisphosphonate (0.33 g, 66%) as white crystals.

reactant | dimethyl m-trimethylsilylphenylacetylphosphonate | 5.0 mmol, 1.63 g | C[Si](C=1C=C(C=CC1)CC(=O)P(OC)(OC)=O)(C)C | C13H21O4PSi
reactant | dimethylphosphite | 7.5 mmol, 0.83 g | COP(OC)[O-]
reactant | dibutylamine | 2.5 mmol, 0.32 g | C(CCC)NCCCC | C8H19N
reactant | hexane | 10 cm3 | CCCCCC | C6H14
solvent | Et2O | 10 cm3 | CCOCC | C4H10O
product | Tetramethyl m-trimethylsilylphenyl-1-hydroxy-ethylidenebis(phosphonate) | 1.34 g, 65% | C[Si](C=1C=C(C=CC1)CC(P(OC)(OC)=O)(P(OC)(OC)=O)O)(C)C | C15H28O7P2Si
